US04880806
To 7-(4-benzyl-1-piperazinyl)-1-cyclopropyl-6-fluoro-8-methyl-1,4 -dihydro-4-oxoquinoline-3-carboxylic acid (84 mg) are added acetic acid (3 ml) and 10% Pd-C (10 mg), and the mixture is subjected to catalytic reduction at 70° C. for one hour. After the catalytic reduction, the reaction mixture is cooled and the catalyst is filtered off. The filtrate is concentrated, and to the residue is added aqueous sodium hydrogen carbonate, and the resulting precipitates are separated by filtration to give 7-(1-piperazinyl)-1-cyclopropyl-6-fluoro-8-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (45 mg), as white crystals, m.p. 291°-295° C. (decomp.).

reactant | 7-(4-benzyl-1-piperazinyl)-1-cyclopropyl-6-fluoro-8-methyl-1,4 -dihydro-4-oxoquinoline-3-carboxylic acid | 84 mg | C(C1=CC=CC=C1)N1CCN(CC1)C1=C(C=C2C(C(=CN(C2=C1C)C1CC1)C(=O)O)=O)F | C25H26FN3O3
catalyst | Pd-C | 10 mg | [Pd] | Pd
solvent | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
product | 7-(1-piperazinyl)-1-cyclopropyl-6-fluoro-8-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 45 mg | N1(CCNCC1)C1=C(C=C2C(C(=CN(C2=C1C)C1CC1)C(=O)O)=O)F | C18H20FN3O3
